US05474995
Step 2: 4-(1-Oxo-2-(4-(methylsulfonyl)phenyl)ethyl) benzoic acid methyl ester
To 7.10 g of 4-(2-(4-methylthiophenyl)-1-oxo-ethyl)benzoic acid methyl ester in MeOH (100 mL) was added oxone (21.0 g) in H2O (20.0 mL) at 0° C. After a few hours at r.t., the reaction mixture was extracted with EtOAc and H2O to afford after flash chromatography (50 to 100% EtOAc in hexane), the title product as a white solid (3.20 g).

reactant | 4-(2-(4-methylthiophenyl)-1-oxo-ethyl)benzoic acid methyl ester | 7.10 g | COC(C1=CC=C(C=C1)C(CC1=CC=C(C=C1)SC)=O)=O | C17H16O3S
reactant | oxone | 21.0 g | OOS(=O)[O-].[K+]
reactant | MeOH | 100 mL | CO | CH4O
solvent | H2O | 20.0 mL | O | H2O
product | 4-(1-Oxo-2-(4-(methylsulfonyl)phenyl)ethyl) benzoic acid methyl ester | 3.20 g | COC(C1=CC=C(C=C1)C(CC1=CC=C(C=C1)S(=O)(=O)C)=O)=O | C17H16O5S
